US07872031B2
5-(3-Aminopyrazin-2-yl)-4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-ol
3-Amino-N-(2,3-difluorophenyl)-N′-aminopyrazine-2-carboxamidine (500 mg, 1.89 mmol) was dissolved in dry THF (10 mL) and CDI (340 mg, 2.10 mmol) was added at RT. The solution was kept at RT for overnight. After the solvent was removed by evaporation, the residue was added to saturated NaHCO3 solution and filtered. After washing with water, the crude yellow solid product (500 mg, 91%) was obtained after drying under vacuum. LC-MS m/e=290.8 (M+H). Using the same procedure, 5-(3-aminopyrazin-2-yl)-4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-ol, 5-(3-aminopyrazin-2-yl)-4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-ol, 5-(2-aminopyridin-3-yl)-4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-ol, 5-(2-aminopyridin-3-yl)-4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-ol, and 5-(2-aminopyridin-3-yl)-4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-ol can be produced from 3-amino-N-(2,3-dichlorophenyl)-N′-aminopyrazine-2-carboxamidine, 3-amino-N-(3-chloro-2-fluorophenyl)-N′-aminopyrazine-2-carboxamidine, 2-amino-N-(2,3-difluorophenyl)-N′-aminopyridine-3-carboxamidine, 2-amino-N-(2,3-dichlorophenyl)-N′-aminopyridine-3-carboxamidine, and 2-amino-N-(3-chloro-2-fluorophenyl)-N′-aminopyridine-3-carboxamidine, respectively.

reactant | 3-Amino-N-(2,3-difluorophenyl)-N′-aminopyrazine-2-carboxamidine | 1.89 mmol, 500 mg | NC=1C(=NC=CN1)C(=NN)NC1=C(C(=CC=C1)F)F | C11H10F2N6
reactant | CDI | 2.10 mmol, 340 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(3-Aminopyrazin-2-yl)-4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-ol | 500 mg, 91% | NC=1C(=NC=CN1)C=1N(C(=NN1)O)C1=C(C(=CC=C1)F)F | C12H8F2N6O
